US06303789B1
A7. 3-(4-Ethoxytetrahydrofuran-3-yloxy)-4-methoxybenzonitrile
1.0 g (4.2 mmol) of 3-(4-hydroxytetrahydrofuran-3-yloxy)-4-methoxybenzonitrile (A15) in 5 ml of dimethylformamide are added dropwise under a nitrogen atmosphere to a solution of 140 mg (4.6 mmol) of sodium hydride in 5 ml of dimethylformamide and the mixture is heated at 40° C. for 1 h. 600 μl (7.5 mmol) of ethyl iodide, dissolved in 1 ml of dimethylformamide, are then added dropwise at RT. The mixture is stirred at RT for 2 h, concentrated, treated with 25 ml of water and acidified with 2 N hydrochloric acid. After extraction with 3×25 ml of ethyl acetate, the combined organic phases are washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated. For further purification, the product is chromatographed on silica gel [toluene/ethyl acetate=4:1]. The product-containing fractions are concentrated and the residue is crystallized from isopropanol. 660 mg of the title compound of m.p. 64-66° C. are obtained.

reactant | 3-(4-hydroxytetrahydrofuran-3-yloxy)-4-methoxybenzonitrile | 4.2 mmol, 1.0 g | OC1C(COC1)OC=1C=C(C#N)C=CC1OC | C12H13NO4
reactant | sodium hydride | 4.6 mmol, 140 mg | [H-].[Na+]
reactant | ethyl iodide | 7.5 mmol, 600 μl | C(C)I | C2H5I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-(4-Ethoxytetrahydrofuran-3-yloxy)-4-methoxybenzonitrile | 660 mg | C(C)OC1C(COC1)OC=1C=C(C#N)C=CC1OC | C14H17NO4
